US08530667B2
To a solution of 1-[2-(4-chloro-phenyl)-thiazol-5-yl]ethanol (264 mg, 1.1 mmol) in tetrahydrofuran (5 ml) is added in one portion the sodium hydride (60% dispersion in mineral oil, 44 mg, 1.1 mmol). The reaction mixture is stirred for five minutes at room temperature and 5-Chloro-1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (219 mg, 1.1 mmol) is added in one-portion. The reaction mixture is stirred at room temperature overnight. Silica gel is added to the crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 5-[2-(4-chloro-phenyl)-thiazol-5-ylmethoxy]-1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one (410 mg).

reactant | 1-[2-(4-chloro-phenyl)-thiazol-5-yl]ethanol | 1.1 mmol, 264 mg | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)O | C11H10ClNOS
reactant | sodium hydride | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | 5-Chloro-1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 1.1 mmol, 219 mg | ClC1=CC(C2C3(CCC(C12)O3)C)=O | C10H11ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-[2-(4-chloro-phenyl)-thiazol-5-ylmethoxy]-1-methyl-10-oxa-tricyclo[5.2.1.0*2,6*]dec-4-en-3-one | 410 mg | ClC1=CC=C(C=C1)C=1SC(=CN1)COC1=CC(C2C3(CCC(C12)O3)C)=O | C20H18ClNO3S
